

*---------- 2SK3019 Spice Model (KUU, LCSC C2909905) ----------
.SUBCKT _2SK3019 10 20 30 
*     TERMINALS:  D  G  S
M1 10 20 30 30 NMOS1 L = 1E-006 W = 1E-006 
* Simple MOS3 model for 2SK3019
* VTO and KP measured on the bench
.model NMOS1 NMOS 
+ LEVEL=3 
+ VTO=1.321
+ KP=0.016
+ RD=1
+ RS=1

* Capacitance from datasheet, not measured
* Capacitances from datasheet
* Cgd = Crss = 4pF
* CGD 10 20 4e-12
* Cds = Coss - Cgd. Coss=9pF
* CDS 10 30 5e-12
* Cgs = Ciss - Cgd. Ciss=13pF
* CGS 20 30 9e-12

* TEST: divide capacitances by 10
CGD 10 20 4e-13
CDS 10 30 5e-13
CGS 20 30 9e-13



.ENDS
